US07846960B2
To a mixture of 4-methoxy-2-methylphenylboronic acid (912 mg, 6 mmol), 5-bromo-4-methyl-thiophene-2-carboxylic acid methyl ester (1.1 g, 5 mmol) and K2CO3 (1.38 g, 10 mmol) in toluene (30 mL) and water (5 mL) is bubbled N2 for 15 minutes followed by addition of tetrakis(triphenylphosphine) palladium (289 mg, 0.25 mmol). The mixture is stirred at 80° C. under N2 overnight. The reaction mixture is filtered through a Celite® pad eluting with EtOAc. The combined filtrate is concentrated under reduced pressure and the residue is purified by column chromatography (0-15% EtOAc in hexanes) to give 5-(4-methoxy-2-methyl-phenyl)-4-methyl-thiophene-2-carboxylic acid methyl ester (540 mg, 39%). 1H NMR (CDCl3): δ 7.63 (s, 1H), 7.15 (d, 1H, J=8.4 Hz), 6.82 (d, 1H, J=2.8 Hz), 6.78 (dd, 1H, J=2.8, J=8.4 Hz), 4.79 (bs, 1H), 3.88 (s, 3H), 3.83 (s, 3H), 2.17 (s, 3H), 2.02 (s, 3H).

reactant | 4-methoxy-2-methylphenylboronic acid | 6 mmol, 912 mg | COC1=CC(=C(C=C1)B(O)O)C | C8H11BO3
reactant | 5-bromo-4-methyl-thiophene-2-carboxylic acid methyl ester | 5 mmol, 1.1 g | COC(=O)C=1SC(=C(C1)C)Br | C7H7BrO2S
reactant | K2CO3 | 10 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium | 0.25 mmol, 289 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(4-methoxy-2-methyl-phenyl)-4-methyl-thiophene-2-carboxylic acid methyl ester | 540 mg, 39% | COC(=O)C=1SC(=C(C1)C)C1=C(C=C(C=C1)OC)C | C15H16O3S
